US08497368B2
6-Chloro-3-[1-(4,6-difluoro-1-methyl-1H-indazol-5-yl)-ethyl]-imidazo[1,2-b]pyridazine (31.2)
A solution of 1-(6-chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(4,6-difluoro-1-methyl-1H-indazol-5-yl)-ethanol (530 mg, 1.457 mmol), Iodine (925 mg, 3.64 mmol) and phosphinic acid (50%, 0.556 mL) in 20 mL acetic acid was heated at 110° C. for 2 hours. Solvent was evaporated and the residue was dissolved in water, neutralized with sat. NaHCO3 solution and extracted with CH2Cl2 for three times. Organic layers were combined and washed with brine, dried over Na2SO4. Solvent was then evaporated and the crude was purified on flash chromatography (Hexane:EtOAc 1:2) to give the title compound as a light yellow solid (320 mg, 63.2%). 1H-NMR (400 MHz, MeOH-d4) δ ppm 8.03 (s, 1H), 8.0 (d, 1H), 7.8 (s, 1H), 7.23 (d, 1H), 7.19 (d, 1H), 5.1 (q, 1H), 4.0 (s, 3H), 1.92 (d, 3H). LCMS (method B): [MH]+=347.9, tR=2.69 min.

reactant | 1-(6-chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(4,6-difluoro-1-methyl-1H-indazol-5-yl)-ethanol | 1.457 mmol, 530 mg | ClC=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C(=C1C=NN(C1=CC2F)C)F | C16H12ClF2N5O
reactant | Iodine | 3.64 mmol, 925 mg | II | I2
reactant | phosphinic acid | 0.556 mL | [PH2](O)=O | H3O2P
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-3-[1-(4,6-difluoro-1-methyl-1H-indazol-5-yl)-ethyl]-imidazo[1,2-b]pyridazine | 320 mg, 63.2% | ClC=1C=CC=2N(N1)C(=CN2)C(C)C=2C(=C1C=NN(C1=CC2F)C)F | C16H12ClF2N5
